US04749637
In 2.5 moles of 2,3-dicyanonaphthalene, 0.075 mole of sodium methoxide and 1 liter of methanol, an ammonia gas was flowed with a suitable flow rate for 40 minutes. Then, the reaction solution was refluxed with heating while flowing the ammonia gas for 4 hours. After cooling, the product was filtered, and recrystallized from a mixed solvent of methanol/ether to yield yellow 1,3-diiminobenz (f) isoindoline in 66% yield.

reactant | 2,3-dicyanonaphthalene | 2.5 moles | C(#N)C1=CC2=CC=CC=C2C=C1C#N | C12H6N2
reactant | sodium methoxide | 0.075 mole | C[O-].[Na+]
reactant | ammonia | N | H3N
solvent | methanol | 1 liter | CO | CH4O
product | 1,3-diiminobenz (f) isoindoline | 66% yield | N=C1NC(C=2C=C3C(=CC12)C=CC=C3)=N | C12H9N3
